US09216980B2
Step 2: 6-Chloro-3(4-piperidin-1-ylmethyl-phenyl)-5-vinyl-9H-dipyrido[2,3-b;4′,3′-d]pyrrole
Sodium bis(trimethylsilyl)amide (1.3 mL, 1.3 mmol) was added to a solution of 6′-chloro-2-fluoro-5-(4-piperidin-1-ylmethyl-phenyl)-5′-vinyl-[3,4]bipyridinyl-3′-ylamine (53 mg, 0.13 mmol) in anhydrous THF (1 mL) and the resultant solution stirred at ambient temperature for 20 min. The reaction mixture was diluted with brine (5 mL) and ethyl acetate (5 mL). The resultant precipitate was collected by filtration to afford the title compound as a beige powder (13 mg, 26%). 1H NMR (CDCl3, 400 MHz): 8.85 (d, J=2.0 Hz, 1H), 8.77 (d, J=2.0 Hz, 1H), 8.61 (s, 1H), 7.58-7.55 (m, 2H), 7.46 (d, J=8.0 Hz, 2H), 7.22-7.14 (m, 1H), 6.03-6.01 (m, 1H), 5.99-5.97 (m, 1H), 3.56 (s, 2H), 2.47-2.37 (m, 4H), 1.64-1.59 (m, 4H), 1.52-1.44 (m, 2H). LCMS (Method A): RT=6.81 min, M+H+=403/405.

reactant | Sodium bis(trimethylsilyl)amide | 1.3 mmol, 1.3 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 6′-chloro-2-fluoro-5-(4-piperidin-1-ylmethyl-phenyl)-5′-vinyl-[3,4]bipyridinyl-3′-ylamine | 0.13 mmol, 53 mg | ClC1=C(C(=C(C=N1)N)C=1C(=NC=C(C1)C1=CC=C(C=C1)CN1CCCCC1)F)C=C | C24H24ClFN4
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | brine | 5 mL | [Cl-].[Na+].O
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | 6-Chloro-3(4-piperidin-1-ylmethyl-phenyl)-5-vinyl-9H-dipyrido[2,3-b;4′,3′-d]pyrrole | 13 mg, 26% | ClC1=C(C=2C3=C(NC2C=N1)N=CC(=C3)C3=CC=C(C=C3)CN3CCCCC3)C=C | C24H23ClN4
